US09334265B2
Intermediate 6: (3-fluoro-4-methyl-2-pyridinyl)methanol
3-fluoro-4-methyl-2-pyridinecarbaldehyde (ASYMCHEM, 250 mg, 1.797 mmol) was dissolved under N2 atmosphere, in dry MeOH (5 mL). NaBH4 (ALDRICH, 187 mg, 4.94 mmol) was added. After 2 h reaction was completed. Solvent was evaporated. Residue was dissolved in ethyl acetate and partitioned between NaHCO3 aqueous saturated solution. Organic layer was dried over MgSO4 (anh), filtered and concentrated to obtain the title compound (200 mg, 1.42 mmol, 79%). 1H NMR (300 MHz, DMSO-d6) δ ppm: 8.21-8.22 (m, 1H), 7.27-7.31 (m, 1H), 5.23 (t, 1H), 4.56 (dd, 2H), 2.27-2.28 (m, 3H). [ES+MS] m/z 142 (MH+).

reactant | 3-fluoro-4-methyl-2-pyridinecarbaldehyde | 1.797 mmol, 250 mg | FC=1C(=NC=CC1C)C=O | C7H6FNO
reactant | NaBH4 | 4.94 mmol, 187 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | (3-fluoro-4-methyl-2-pyridinyl)methanol | 1.42 mmol, 200 mg, 79% | FC=1C(=NC=CC1C)CO | C7H8FNO
